US04803200
β-[[3-(Hexyloxy)propyl]amino]-α-phenylbenzeneethanol.
A mixture of trans-stilbene oxide (1.96 g, 0.010 mole) and 3-hexyloxypropylamine (1.75 g, 0.011 mole) was heated at 140° C. for 6 hours. After standing at ambient temperature for 44 hours, the reaction mixture was dissolved in acetone (10 ml) and the solution poured into water (150 ml). The light brown oil which separated from solution solidified on standing for 1 hour. The solid was collected and dried on absorbent paper for 18 hours. The solid was then triturated in isooctane (soluble) and the solution chilled to obtain a solid which was collected, washed with cold isooctane, and dried under ambient conditions to obtain 1.20 g (34%) of the product, m.p. 67°-69° C.

reactant | trans-stilbene oxide | 0.010 mole, 1.96 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 3-hexyloxypropylamine | 0.011 mole, 1.75 g | C(CCCCC)OCCCN | C9H21NO
reactant | water | 150 ml | O | H2O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | β-[[3-(Hexyloxy)propyl]amino]-α-phenylbenzeneethanol | 1.20 g, 34% | C(CCCCC)OCCCNC(C(O)C1=CC=CC=C1)C1=CC=CC=C1 | C23H33NO2
